US08865911B2
6-Isobutoxy-2,3-dihydro-1H-inden-1-one
To a mixture of 6-hydroxy-2,3-dihydro-1H-inden-1-one (5.0 g, 33.8 mmol) in DMF (170 mL) was added K2CO3 (9.33 g, 67.5 mmol) and 1-bromo-2-methylpropane (5.50 mL, 50.6 mmol). The resulting orange mixture was stirred at r.t. overnight and was then heated to 60° C. for 2 days. The mixture was cooled to r.t., water was added and the mixture was extracted with EtOAc (×4). The combined organic layers were dried over MgSO4 and concentrated in vacuo. Purification by flash chromatography using 0-20% EtOAc in heptane as eluent afforded 4.98 g (72% yield) of the title compound: 1H NMR (500 MHz, CDCl3) δ ppm 1.03 (d, 6 H), 2.10 (dt, 1 H), 2.69-2.75 (m, 2 H), 3.04-3.11 (m, 2 H), 3.75 (d, 2 H), 7.17-7.22 (m, 2 H), 7.37 (d, 1 H); MS (ES+) m/z 205 [M+H]+.

reactant | 6-hydroxy-2,3-dihydro-1H-inden-1-one | 33.8 mmol, 5.0 g | OC1=CC=C2CCC(C2=C1)=O | C9H8O2
reactant | K2CO3 | 67.5 mmol, 9.33 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-2-methylpropane | 50.6 mmol, 5.50 mL | BrCC(C)C | C4H9Br
reactant | water | O | H2O
solvent | DMF | 170 mL | CN(C)C=O | C3H7NO
product | 6-Isobutoxy-2,3-dihydro-1H-inden-1-one | 4.98 g, 72% yield | C(C(C)C)OC1=CC=C2CCC(C2=C1)=O | C13H16O2
